US07795282B2
Step A: Preparation of 5-(2,5-difluorophenyl)-2-methyl-2-phenyl-2,3-dihydro-1,3,4-thiadiazole.
To a solution of acetophenone (0.600 g, 5.00 mmol) in 20 mL of a 3:1 EtOH/DCM mixture was added 2,5-difluorobenzothiohydrazide (0.941 g, 5.00 mmol). The reaction was allowed to stir overnight at room temperature. The reaction was then heated to 45° C., for 14 hours. The reaction mixture was then concentrated in vacuo, and the residue was loaded directly to Biotage (45), followed by flash column chromatography (20% ethyl acetate/hexanes), yielding 5-(2,5-the desired product (1.021 g, 70% yield) as a yellow semi-solid.

reactant | acetophenone | 5.00 mmol, 0.600 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | 2,5-difluorobenzothiohydrazide | 5.00 mmol, 0.941 g | FC1=C(C(NN)=S)C=C(C=C1)F | C7H6F2N2S
solvent | EtOH DCM | 20 mL | CCO.C(Cl)Cl
product | 5-(2,5-difluorophenyl)-2-methyl-2-phenyl-2,3-dihydro-1,3,4-thiadiazole | 1.021 g, 70% yield | FC1=C(C=C(C=C1)F)C1=NNC(S1)(C1=CC=CC=C1)C | C15H12F2N2S
